US07304071B2
3-(3-Dimethylamino-acryloyl)-benzonitrile
A mixture of 3-Acetyl-benzonitrile (36.2 g, 249 mmol) in dimethylformamide dimethylacetal (200 mL, excess) was heated to reflux overnight. The solvent was evaporated in vacuo to afford an orange solid. The solid was dissolved in dichloromethane and filtered over a plug of silica gel eluting with 20% ethyl acetate/dichloromethane. The filtrate was concentrated in vacuo to afford 42.0 g (84%) of the title compound as an orange solid.

reactant | 3-Acetyl-benzonitrile | 249 mmol, 36.2 g | C(C)(=O)C=1C=C(C#N)C=CC1 | C9H7NO
reactant | dimethylformamide dimethylacetal | 200 mL | COC(N(C)C)OC | C5H13NO2
solvent | dichloromethane | ClCCl | CH2Cl2
product | 3-(3-Dimethylamino-acryloyl)-benzonitrile | 42.0 g, 84% | CN(C=CC(=O)C=1C=C(C#N)C=CC1)C | C12H12N2O
